### PR TITLE
[Merged by Bors] - feat port: Data.Sum.Order

### PR DESCRIPTION
**Pull request by ChrisHughes24**
Mathlib SHA f1a2caaf51ef593799107fe9a8d5e411599f3996

The main difficulty here was having to add a bunch of explicit types where the type was `OrderDual` when there where funny defeq tricks in Mathlib3.

### CODE REVIEW

File: Mathlib/Data/Sum/Order.lean [hunk 1]
```diff
@@ -0,0 +1,798 @@
...
+
+end Disjoint
+
+/-! ### Linear sum of two orders -/
+
+
+namespace Lex
+
+
+-- mathport name: «expr ⊕ₗ »
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Sum/Order.lean:296]:
```suggestion
```

File: Mathlib/Data/Sum/Order.lean [hunk 2]
```diff
@@ -0,0 +1,798 @@
...
+#align sum.inlₗ Sum.inlₗ
+
+/-- Lexicographical `sum.inr`. Only used for pattern matching. -/
+@[match_pattern]
+abbrev _root_.Sum.inrₗ (x : β) : α ⊕ₗ β :=
+  toLex (Sum.inr x)
+#align sum.inrₗ Sum.inrₗ
+
+/-- The linear/lexicographical `≤` on a sum. -/
+instance hasLe [LE α] [LE β] : LE (α ⊕ₗ β) :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Sum/Order.lean:314]: Or `hasLE`?

File: Mathlib/Data/Sum/Order.lean [hunk 3]
```diff
@@ -0,0 +1,798 @@
...
+  ⟨Lex (· ≤ ·) (· ≤ ·)⟩
+#align sum.lex.has_le Sum.Lex.hasLe
+
+/-- The linear/lexicographical `<` on a sum. -/
+instance hasLt [LT α] [LT β] : LT (α ⊕ₗ β) :=
+  ⟨Lex (· < ·) (· < ·)⟩
+#align sum.lex.has_lt Sum.Lex.hasLt
+
+@[simp]
+theorem to_lex_le_to_lex [LE α] [LE β] {a b : Sum α β} :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Sum/Order.lean:324]:
```suggestion
theorem toLex_le_toLex [LE α] [LE β] {a b : Sum α β} :
```
and similar

File: Mathlib/Data/Sum/Order.lean [hunk 4]
```diff
@@ -0,0 +1,798 @@
...
+      · rintro ⟨⟨hab⟩ | ⟨hab⟩ | ⟨a, b⟩, hba⟩
+        · exact Lex.inl (hab.lt_of_not_le fun h => hba <| Lex.inl h)
+        · exact Lex.inr (hab.lt_of_not_le fun h => hba <| Lex.inr h)
+        · exact Lex.sep _ _ }
+#align sum.lex.preorder Sum.Lex.preorder
+
+theorem toLex_mono : Monotone (@toLex (Sum α β)) := fun _ _ h => h.lex
+#align sum.lex.to_lex_mono Sum.Lex.toLex_mono
+
+theorem toLex_strict_mono : StrictMono (@toLex (Sum α β)) := fun _ _ h => h.lex
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Sum/Order.lean:398]:
```suggestion
theorem toLex_strictMono : StrictMono (@toLex (Sum α β)) := fun _ _ h => h.lex
```

File: Mathlib/Data/Sum/Order.lean [hunk 5]
```diff
@@ -0,0 +1,798 @@
...
+  { Equiv.sumComm α β with map_rel_iff' := swap_le_swap_iff }
+#align order_iso.sum_comm OrderIso.sumComm
+
+@[simp]
+theorem sumComm_symm (α β : Type _) [LE α] [LE β] :
+    (OrderIso.sumComm α β).symm = OrderIso.sumComm β α :=
+  rfl
+#align order_iso.sum_comm_symm OrderIso.sumComm_symm
+
+/-- `equiv.sum_assoc` promoted to an order isomorphism. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Sum/Order.lean:559]:
```suggestion
/-- `Equiv.sumAssoc` promoted to an order isomorphism. -/
```

And again below

File: Mathlib/Data/Sum/Order.lean [hunk 6]
```diff
@@ -0,0 +1,798 @@
...
+  rfl
+#align order_iso.sum_lex_dual_antidistrib_symm_inr OrderIso.sumLexDualAntidistrib_symm_inr
+
+end OrderIso
+
+variable [LE α]
+
+namespace WithBot
+
+/-- `with_bot α` is order-isomorphic to `punit ⊕ₗ α`, by sending `⊥` to `punit.star` and `↑a` to
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Sum/Order.lean:734]:
```suggestion
/-- `WithBot α` is order-isomorphic to `PUnit ⊕ₗ α`, by sending `⊥` to `PUnit.star` and `↑a` to
```

File: Mathlib/Data/Sum/Order.lean [hunk 7]
```diff
@@ -0,0 +1,798 @@
...
+theorem orderIsoPUnitSumLex_symm_inr (a : α) : orderIsoPUnitSumLex.symm (toLex <| inr a) = a :=
+  rfl
+#align with_bot.order_iso_punit_sum_lex_symm_inr WithBot.orderIsoPUnitSumLex_symm_inr
+
+end WithBot
+
+namespace WithTop
+
+/-- `with_top α` is order-isomorphic to `α ⊕ₗ punit`, by sending `⊤` to `punit.star` and `↑a` to
+`a`. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Sum/Order.lean:769]: Same

**Review by Ruben-VandeVelde — APPROVED** [review]

**Comment by semorrison** [comment]
bors merge
